US04801593
Preparation of 4',6-dichlorothioflavan
4',6-dichlorothioflavanone, (m.pt. 125°-127°), was prepared from 4',6-dichloroflavanone by a method exactly analogous to that used in Example 1(c).

reactant | 4',6-dichlorothioflavanone | ClC1=CC=C(C2OC3=CC=C(C=C3C(C2)=S)Cl)C=C1 | C15H10Cl2OS
reactant | 4',6-dichloroflavanone | ClC1=CC=C(C2OC3=CC=C(C=C3C(C2)=O)Cl)C=C1 | C15H10Cl2O2
product | 4',6-dichlorothioflavan | ClC1=CC=C(C2SC3=CC=C(C=C3CC2)Cl)C=C1 | C15H12Cl2S
